US06774263B1
Conversion of the Hydrochloride Salt to the Free Base (R)-N-(2-chloro-3-methylthiophenyl)-N′-(3-methylsulfinylphenyl)-N′-methylguanidine hydrochloride (0.56 g) was dissolved in chloroform (25 ml) and methanol (3 ml) added to get a clear solution and this was treated with sodium hydroxide (1N, 2×25 ml) in a separating funnel. The organic layer was separated and the aqueous layer was extracted with chloroform (20 ml). Combined organic layer was washed with water (25 ml) and passed through a bed of sodium chloride to remove any solid suspensions and the filtrate was concentrated to yield the free base of (R)-N-(2-chloro-3-methylthiophenyl)-N′-(3-methylsulfinylphenyl)-N′-methylguanidine (0.37 g., 73%); Chiral HPLC 76.5% ee @ 16.45; HPLC 97.7% @ 14.5 mins; 1H-NMR (CD3OD) δ 2.46 (s, 3H, SMe), 2.77 (s, 3H, S(O)Me), 3.47 (s, 3H, NMe), 6.81 (dd, 1H), 6.87 (dd, 1H), 7.28 (d, 1H), 7.50 (m, 3H), 7.68 (s, 1H).

reactant | (R)-N-(2-chloro-3-methylthiophenyl)-N′-(3-methylsulfinylphenyl)-N′-methylguanidine hydrochloride | 0.56 g | Cl.ClC1=C(C=CC=C1SC)NC(=N)N(C)C1=CC(=CC=C1)[S@](=O)C
reactant | methanol | 3 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-N-(2-chloro-3-methylthiophenyl)-N′-(3-methylsulfinylphenyl)-N′-methylguanidine | 0.37 g, 73% | ClC1=C(C=CC=C1SC)NC(=N)N(C)C1=CC(=CC=C1)[S@](=O)C | C16H18ClN3OS2
